US07115609B2
1-[N-(Indole-6-carbonyl)-D-aspartyl]-4-(1-methylpiperidin-4-yl)piperidine hydrochloride
Prepared from 1-[(β-benzyl)-D-aspartyl]-4-(1-methylpiperidin-4-yl)piperidine Hydrochloride and indole-6-carboxylic acid using methods substantially equivalent to General Coupling Method 1. Ester deprotection with 2 eq LiOH and final purification and HCl salt formation via prep HPLC.

reactant | 1-[(β-benzyl)-D-aspartyl]-4-(1-methylpiperidin-4-yl)piperidine Hydrochloride | Cl.C(C1=CC=CC=C1)C([C@@H](N)C(=O)N1CCC(CC1)C1CCN(CC1)C)C(O)=O
reactant | indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | LiOH | 2 eq | [Li+].[OH-]
reactant | HCl | Cl | ClH
product | 1-[N-(Indole-6-carbonyl)-D-aspartyl]-4-(1-methylpiperidin-4-yl)piperidine hydrochloride | Cl.N1C=CC2=CC=C(C=C12)C(=O)N[C@H](CC(O)=O)C(=O)N1CCC(CC1)C1CCN(CC1)C | InChI=1S/C24H32N4O4.ClH/c1-27-10-5-16(6-11-27)17-7-12-28(13-8-17)24(32)21(15-22(29)30)26-23(31)19-3-2-18-4-9-25-20(18)14-19;/h2-4,9,14,16-17,21,25H,5-8,10-13,15H2,1H3,(H,26,31)(H,29,30);1H/t21-;/m1./s1
